US05332737
A mixture of 4-chloro-2-methyl-6-methylamino-1,3,5-triazine (1.06 g; 6.7 mM; described in J. Pharm. Soc. (Japan) 1975, 95, p.512) and 3-methylpiperidine (1.32 g, 13.3 mM) in acetone (10 ml) was stirred at ambient temperature for 6 hours. The mixture was filtered and the solid was partitioned between 3N aqueous ammonia solution (50 ml) and dichloromethane (50 ml). The organic solution was separated and dried (MgSO4) and the solvent was removed, and the residue was crystallised from elthanol. There was thus obtained 2-methyl-6-methylamino-4-(3-methylpiperidino)-1,3,5-triazine (608 mg, 41.3% yield) m.p. 155°-155.50° C.; microanalysis found: C,59.9; H,8.7; N,31.6%; C11H19N5 requires C,59.7; H,8.6; N,31.7%.

reactant | 4-chloro-2-methyl-6-methylamino-1,3,5-triazine | 6.7 mM, 1.06 g | ClC1=NC(=NC(=N1)NC)C | C5H7ClN4
reactant | 3-methylpiperidine | 13.3 mM, 1.32 g | CC1CNCCC1 | C6H13N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-methyl-6-methylamino-4-(3-methylpiperidino)-1,3,5-triazine | 608 mg, 41.3% yield | CC1=NC(=NC(=N1)N1CC(CCC1)C)NC | C11H19N5
